US09193689B2
To 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoic acid (35 mg, 0.125 mmol), TBTU (40 mg, 0.125 mmol) was added 0.36M N,N-diisopropylethylamine/CH2Cl2 (0.35 mL, 0.125 mmol) and anhydrous DMF (0.9 mL). The reaction mixture was stirred at RT for 45 min after which time methyl-(tetrahydro-pyran-4-ylmethyl)-amine (19 mg, 0.15 mmol) in anhydrous DMF (0.45 mL) was added and the reaction mixture was stirred at RT overnight. The reaction mixture was passed through a Si—NH2 cartridge (1 g), eluting with DMF (2× column volumes), MeOH (2× column volumes) and the solvent removed in vacuo and the crude product purified by reverse phase preparative HPLC-MS to obtain N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-(tetrahydro-pyran-4-ylmethyl)-benzamide as a yellow foam (24 mg, 48%).

reactant | 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoic acid | 0.125 mmol, 35 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C(=O)O)C=C1 | C17H13NO3
reactant | TBTU | 0.125 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine CH2Cl2 | 0.125 mmol, 0.36M, 0.35 mL | C(C)(C)N(C(C)C)CC.C(Cl)Cl
reactant | methyl-(tetrahydro-pyran-4-ylmethyl)-amine | 0.15 mmol, 19 mg | CNCC1CCOCC1 | C7H15NO
solvent | DMF | 0.45 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
product | N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-(tetrahydro-pyran-4-ylmethyl)-benzamide | 24 mg, 48% | CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)CC1CCOCC1 | C24H26N2O3
